US09359359B2
To a solution of 2-amino-7-(4-chlorobenzyl)-1H-purin-6(7H)-one (6.8 g, 24.7 mmol) in acetic acid (80 mL) and water (10 mL) was added a solution of sodium nitrite (3.4 g, 24.7 mmol) in water (10 mL) dropwise at 50° C. The reaction was stirred at 50° C. for 1 h. The mixture was cooled to room temperature and stirred for another 1.5 h. The precipitate was collected, washed with water and ethanol, and dried in vacuo to give 7-(4-chlorobenzyl)-1H-purine-2,6(3H,7H)-dione (6.5 g, 95.3% yield) as yellow solid. LCMS retention time 0.635 min; LCMS MH+ 277.

reactant | 2-amino-7-(4-chlorobenzyl)-1H-purin-6(7H)-one | 24.7 mmol, 6.8 g | NC=1NC(C=2N(C=NC2N1)CC1=CC=C(C=C1)Cl)=O | C12H10ClN5O
reactant | sodium nitrite | 24.7 mmol, 3.4 g | N(=O)[O-].[Na+]
solvent | acetic acid | 80 mL | C(C)(=O)O | C2H4O2
solvent | water | 10 mL | O | H2O
solvent | water | 10 mL | O | H2O
product | 7-(4-chlorobenzyl)-1H-purine-2,6(3H,7H)-dione | 6.5 g, 95.3% yield | ClC1=CC=C(CN2C=NC=3NC(NC(C23)=O)=O)C=C1 | C12H9ClN4O2
